US05776931
Preparation of (RS) ethyl 3-[piperidin-3-yl]propionate
A solution of ethyl 3-[pyrid-3-yl]prop-2-enoate (60 g, 0.34 mol) in ethanol (600 ml) was treated with 5% rhodium on alumina powder (17.2 g). The mixture was placed under a hydrogen atmosphere (55 psi) for five hours at 60° C. The reaction was stopped by removing the hydrogen and the reaciton mixture was filtered through a layer of CELITE™. The residue was washed with hot ethanol. The filtrate was concentrated and purified by flash chromatography to provide 39.6 grams (63%) of the desired title product.

reactant | ethyl 3-[pyrid-3-yl]prop-2-enoate | 0.34 mol, 60 g | N1=CC(=CC=C1)C=CC(=O)OCC | C10H11NO2
solvent | ethanol | 600 ml | C(C)O | C2H6O
catalyst | rhodium on alumina | 17.2 g | [Rh] | Rh
product | (RS) ethyl 3-[piperidin-3-yl]propionate | 39.6 grams, 63% | N1CC(CCC1)CCC(=O)OCC | C10H19NO2
